US07842828B2
Next, using a gas-tight syringe (made by Hamilton), 110 g of the reaction liquid was put into a 200 ml three-neck flask equipped with a three-way stopcock, a reflux condenser-equipped fractionating column in which a 45 cm-long distillation column packed with Heli-Pak No. 3 and a distillate receiver were connected together, and a thermometer, while passing in 0.3 L/min of nitrogen gas via the three-way stopcock. The flask was immersed in an oil bath heated to approximately 175° C. After carrying out stirring and heating for approximately 20 minutes, the temperature of the reaction liquid had reached approximately 167° C. The pressure in the apparatus was then gradually reduced, and distillation was carried out at approximately 0.2 kPa. Distillate 1 was recovered at approximately 0.5 mL/min. After the distillate 1 stopped coming off, the pressure in the apparatus was further gradually reduced to approximately 0.03 kPa and the distillation was continued, whereby distillate 2 was recovered at approximately 0.5 mL/min. The distillate stopped coming off after approximately 2 hours, and then the reduced pressure in the apparatus was released, and the heating was stopped, thus stopping the distillation. The amounts of the distillate 1 and distillate 2 obtained and the residual matter in the flask were respectively 33, 56, and 20 g. NMR analysis was carried out on each of the distillate 1, the distillate 2, and the residual matter in the flask. Distillate 1 was found to contain 90 wt % of tributyltin butoxide and 10 wt % of dibutyl carbonate, and as distillate 2 98% of dibutyltin dibutoxide was obtained. The residual matter in the flask was found to contain approximately 1 wt % of 1,1,3,3-tetrabutyl-1,3-di(butyloxy)-distannoxane with a plurality of NMR shifts originating from the high boiling deactivated component also being seen in a range of from −240 to −605 ppm.

reactant | tributyltin butoxide | [O-]CCCC.C(CCC)[Sn+](CCCC)CCCC
reactant | dibutyl carbonate | C(OCCCC)(OCCCC)=O | C9H18O3
solvent | Water | O | H2O
product | dibutyltin dibutoxide | [O-]CCCC.[O-]CCCC.C(CCC)[Sn+2]CCCC | InChI=1S/2C4H9O.2C4H9.Sn/c2*1-2-3-4-5;2*1-3-4-2;/h2*2-4H2,1H3;2*1,3-4H2,2H3;/q2*-1;;;+2
